US08614206B2
To a solution of (±) tert-butyl 2-methyl-4-(4-nitro-1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)piperazine-1-carboxylate (370 mg, 0.94 mmol) in MeOH (15 mL) and H2O (3 mL) was added zinc (362 mg, 5.6 mmol) and NH4Cl (400 mg, 7.5 mmol). The reaction mixture was stirred at ambient temperature for 4 hours, filtered through Celite, and evaporated under reduced pressure to afford tert-butyl (±)-4-(4-amino-1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)-2-methylpiperazine-1-carboxylate as yellow solid (300 mg, 88%). MS (ESI) m/z: 364 [M+H+].

reactant | (±) tert-butyl 2-methyl-4-(4-nitro-1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)piperazine-1-carboxylate | 0.94 mmol, 370 mg | CC1N(CCN(C1)C1=C(C=NN1CC(F)(F)F)[N+](=O)[O-])C(=O)OC(C)(C)C | C15H22F3N5O4
reactant | NH4Cl | 7.5 mmol, 400 mg | [NH4+].[Cl-]
solvent | MeOH | 15 mL | CO | CH4O
solvent | H2O | 3 mL | O | H2O
catalyst | zinc | 5.6 mmol, 362 mg | [Zn] | Zn
product | tert-butyl (±)-4-(4-amino-1-(2,2,2-trifluoroethyl)-1H-pyrazol-5-yl)-2-methylpiperazine-1-carboxylate | 300 mg, 88% | NC=1C=NN(C1N1CC(N(CC1)C(=O)OC(C)(C)C)C)CC(F)(F)F | C15H24F3N5O2
